US07691882B2
2-(4-Chloromethyl-benzyloxy)-pyridine
A mixture of (4-(pyridin-2-yloxymethyl)-phenyl)methanol (540 mg, 2.51 mmol) described in Manufacturing Example 2-1-1, triphenylphosphine (856 mg, 3.27 mmol) and carbon tetrachloride (10.8 g, 10.2 mmol) was stirred under reflux for 2 hours and 10 minutes. The reaction solution was cooled to room temperature, and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:acetic acid=8:1) to obtain the title compound (300 mg, 51.1%).

reactant | (4-(pyridin-2-yloxymethyl)-phenyl)methanol | 2.51 mmol, 540 mg | N1=C(C=CC=C1)OCC1=CC=C(C=C1)CO | C13H13NO2
reactant | triphenylphosphine | 3.27 mmol, 856 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 10.2 mmol, 10.8 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-Chloromethyl-benzyloxy)-pyridine | 300 mg, 51.1% | ClCC1=CC=C(COC2=NC=CC=C2)C=C1 | C13H12ClNO
